US07452886B2
C. 6-Benzyl-7-isobutyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
5-Bromo-4-isobutylamino-pyrimidine-2-carbonitrile (0.39 mmol), 3-phenyl-1-propyne (0.78 mmol), dichlorobis(triphenylphosphine)palladium (II) (0.02 mmol), copper (I) iodide (0.04 mmol) and triethylamine (1.2 mmol) in DMF (3 ml) is stirred at 75° C. for 2.5 h. After the reaction mixture is treated with saturated ammonium chloride, the mixture is extracted with AcOEt. The organic layer is washed with brine, dried over magnesium sulfate and evaporated down. The crude product is applied to a column chromatography on silica gel, which is eluted with following solvents: n-hexane:AcOEt=10:1 (v/v) and n-hexane:AcOEt=8:1 (v/v). The solvent of the latter effluent is removed by evaporation and dried in vacuo to afford the title compound. yield 40.6%, Rf=0.53 (n-hexane:AcOEt=1:1).

reactant | 5-Bromo-4-isobutylamino-pyrimidine-2-carbonitrile | 0.39 mmol | BrC=1C(=NC(=NC1)C#N)NCC(C)C | C9H11BrN4
reactant | 3-phenyl-1-propyne | 0.78 mmol | C1(=CC=CC=C1)CC#C | C9H8
reactant | triethylamine | 1.2 mmol | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.02 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.04 mmol | [Cu]I
product | 6-Benzyl-7-isobutyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | yield 40.6% | C(C1=CC=CC=C1)C1=CC2=C(N=C(N=C2)C#N)N1CC(C)C | C18H18N4
